* sg13g2-bandgap -- bandgap_core + bandgap_amp + bandgap_startup
* closed-loop AC loop-gain / phase-margin testbench (issue #86, follow-on
* to #58). Generated from
* sim/loop-gain-phase-margin/testbench/tb_loop_gain.spice.tmpl
* by sim/loop-gain-phase-margin/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full methodology rationale is in
* sim/loop-gain-phase-margin/README.md.
*
* Generated for: corner=typ temp=27C vdd=2.97V
* DUT git sha (design/netlist/bandgap_core.spice,
* design/netlist/bandgap_amp.spice and design/netlist/bandgap_startup.spice
* this was copied from):
*   core=8bb15bc amp=397fe2d startup=66ac99d seeds=20260829-102626-1d98d88.csv@
* PDK: ihp-sg13g2 /home/ubuntu/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* --------------------------------------------------------- loop-break method
* Same three DUTs as sim/closed-loop-startup/ and sim/closed-loop-vref-pvt/,
* copied verbatim and wired exactly as design/bandgap_top.sch specifies,
* EXCEPT the single shared "fb" node is split into TWO nodes for this
* testbench only:
*   fb_src  -- bandgap_amp's own output (MP4/MN3 drains -- what design/
*              bandgap_amp.sch's header calls "out")
*   fb_load -- everything fb_src normally drives directly: bandgap_core's
*              three PMOS mirror gates (M1/M2/M3) and bandgap_startup's
*              XMKFB drain (via the same Vmkfb 0V ammeter fixture
*              sim/closed-loop-startup/ uses)
* A large inductor (Lbreak, 1e9 H) connects fb_src to fb_load: at DC an
* ideal inductor is a short circuit REGARDLESS of its inductance, so this
* preserves the closed-loop DC operating point exactly (fb_src=fb_load, the
* same constraint the real single "fb" node enforces) while presenting a
* huge (>1e17 ohm at the lowest swept frequency) AC impedance, breaking the
* loop for the .ac analysis without touching its DC bias. A small-signal AC
* voltage source (Vtest, 1V/0deg, DC=0V) is injected in series with Lbreak
* between fb_src and fb_load -- Middlebrook's classic single voltage-
* injection loop-gain probe. This break point is deliberately chosen
* because fb_load's OTHER connections are all MOS gates (M1/M2/M3's gates,
* XMKFB's drain via a 0V ammeter) -- i.e. a high-impedance load looking
* into the forward path from the injection point, and fb_src is a real,
* comparatively low-impedance amplifier output -- exactly the impedance
* asymmetry single voltage injection needs to be accurate (see README).
*
* Loop gain (this testbench's own sign convention, see README "Sign
* convention"): T(s) = V(fb_src)/V(fb_load). Phase margin = phase(T(jwc))
* at the frequency wc where |T(jwc)| = 1 (0 dB), given phase(T) starts near
* +180 deg at DC (the negative-feedback loop's own sign, already baked into
* this ratio -- verified empirically, not assumed, see README).
*
* ------------------------------------------------------- DC bias: nodeset
* This circuit has (at least) two DC equilibria -- the intended closed-loop
* operating point AND the degenerate all-off state design/bandgap_startup.sch
* exists to kick it out of (see that schematic's own header and
* sim/closed-loop-startup/README.md's account of why a plain vdd ramp is
* even needed there). A bare `.op` on the loop-BROKEN topology below, with
* no transient bring-up and no bias hint, has no guaranteed way to land in
* the intended basin -- and this testbench genuinely cannot reuse
* sim/closed-loop-startup's own vdd-ramp bring-up transient directly: doing
* so with the loop already split at fb_src/fb_load starves fb_load's DC/
* transient dynamics (its only other connections are MOS gates and one
* ammeter -- effectively no fast current path except through Lbreak, whose
* L/R time constant is enormous relative to the ramp), corrupting the
* bring-up itself (confirmed empirically during this issue's own dev-time
* prototyping -- every L tried, from 1H to 1e9H, either failed to converge
* the transient or settled somewhere far from
* sim/closed-loop-startup's own known-correct endpoint).
*
* The fix used here: seed a `.nodeset` (an initial-guess HINT for `.op`'s
* Newton-Raphson iteration, not an enforced constraint -- unlike `.ic`) at
* fb_load/fb_src/sns1/sns2/vref using the EXACT converged values
* sim/closed-loop-startup's own vdd-ramp transient already found for this
* same corner/temp/vdd point (read from its most recent committed record by
* run_pvt_sweep.sh at generation time -- see that script and the README's
* "Nodeset provenance" section). Since the seed IS (very nearly) the real
* answer, `.op`'s Newton-Raphson converges back to it directly rather than
* searching -- confirmed empirically across 6 spot-checked corners during
* dev-time prototyping to reproduce sim/closed-loop-startup's own fb/sns1/
* sns2/vref values to 3-4 significant figures despite only 5 of this
* circuit's ~13 non-trivial nodes being seeded. run_pvt_sweep.sh itself
* re-verifies this for every one of the 45 points in this sweep (not just
* the dev-time spot check) via the "op landed near its seed" sanity check
* documented in the README -- a point whose `.op` result strays far from
* its own seed fails outright rather than silently reporting a bogus
* loop-gain number from the wrong equilibrium.
.nodeset v(fb_load)=2.16431e+00 v(fb_src)=2.16431e+00 v(sns1)=7.08661e-01 v(sns2)=7.08377e-01 v(vref)=1.04582e+00

.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_typ

.options temp=27 tnom=27

* FIXTURE -- vdd is a FIXED DC source here (not the transient ramp
* sim/closed-loop-startup/sim/closed-loop-vref-pvt use): this testbench
* measures a small-signal AC property of one already-settled DC operating
* point (seeded via .nodeset above), not a startup transient.
Vvdd vdd 0 dc 2.97
Vvss vss 0 dc 0
Vsub sub! vss dc 0

* DUT -- design/netlist/bandgap_core.spice, verbatim, EXCEPT gates tied to
* fb_load instead of fb (see "loop-break method" above).
XM1 sns1 fb_load vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQ1 sns1 sns1 vss vss npn13G2 Nx=1
XM2 sns2 fb_load vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XR2 sns2 cb2 sub! rppd w=2u l=82.7u m=1 b=0
XQ2 cb2 cb2 vss vss npn13G2 Nx=8
XM3 vref fb_load vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XR1 vref cb3 sub! rppd w=2u l=511u m=1 b=0
XQ3 cb3 cb3 vss vss npn13G2 Nx=1

* DUT -- design/netlist/bandgap_amp.spice, verbatim, EXCEPT the output
* devices (MP4 drain, MN3 drain) are tied to fb_src instead of fb/out (see
* "loop-break method" above). in_p <- sns2 (non-inverting), in_n <- sns1
* (inverting) -- unchanged from design/bandgap_amp.sch's own polarity.
XMTAIL tail fb_src vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP1 d1 sns2 tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP2 d2 sns1 tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP3 pn pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP4 fb_src pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMN1 d1 d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN2 d2 d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN3 fb_src d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN4 pn d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1

* DUT -- design/netlist/bandgap_startup.spice, verbatim, EXCEPT XMKFB's
* drain is tied to fb_load instead of fb (via the same 0V Vmkfb ammeter
* fixture sim/closed-loop-startup/ uses). At the settled bias this .nodeset
* seeds, XMKFB is fully released (same as every PASS point in
* sim/closed-loop-startup) and contributes ~0 current either way.
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0
XMSENSE det sns1 vss vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1
Vmkfb fb_load fbx dc 0
XMKFB fbx det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1

* LOOP BREAK -- see "loop-break method" above. Lbreak's DC impedance is
* always 0 (ideal inductor), so it does not perturb the .nodeset-seeded DC
* operating point at all; only its AC (jwL) reactance matters, and that is
* confirmed >> this circuit's own node impedances at every frequency this
* testbench sweeps (empirically verified L-invariant between 1e6 H and
* 1e9 H during dev-time prototyping -- see README).
Lbreak fb_src brk 1e9
Vtest brk fb_load dc 0 ac 1 0

.control
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
op
* Sanity check (see README "op landed near its seed"): if .op strayed into
* the wrong equilibrium, fb_load here will read far from 2.16431e+00.
* (ngspice has no ".meas op" analysis type -- "print" is the standard way
* to pull a DC operating-point value out of a .control block; parsed by
* run_pvt_sweep.sh from this exact "v(node) = value" line shape.)
print v(fb_load)
print v(sns1)
print v(sns2)
print v(vref)
ac dec 30 1 1e9
let loopgain_db = db(v(fb_src)/v(fb_load))
let loopgain_ph = cph(v(fb_src)/v(fb_load))*180/PI
wrdata /home/ubuntu/GitHub/sg13g2-bandgap/.loom/worktrees/issue-141/sim/loop-gain-phase-margin/corners/20260829-103017-1d98d88/typ_27c_2.97v.ac.txt loopgain_db loopgain_ph
.endc
.end
